US03978121
A. 3-bromo-7-fluorosulfonyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one
Fluorosulfonic acid, 100 ml., is placed in a 300 ml. 3-necked round bottom flask equipped with polyethylene inlet tube and polyethylene exit tube with drying tube half-filled with anhydrous sodium fluoride. A nitrogen atmosphere is maintained throughout the reaction. With stirring, 17.0 g. (0.059 mole) of 3-bromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one is added in portions over 20 minutes. After stirring another 10 minutes, the dark green solution is heated on the steam-bath for 61/2 hours. The mixture then is cooled to room temperature, poured cautiously with stirring into 1.5 kg. of crushed ice, and allowed to stand overnight at room temperature. The brown solid is collected, washed with water, dried in a vacuum desiccator over sodium hydroxide, and then extracted in a Sohxlet extractor with 700 ml. of boiling cyclohexane for 16 hours. On cooling, the cyclohexane extract deposits 11.65 g. (53%) of 3-bromo-7-fluorosulfonyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one as dark yellow flakes, m.p. 148°-151°C. Recrystallizations from ether and cyclohexane give an analytical sample, m.p. 150°-152°C.

reactant | Fluorosulfonic acid | FS(=O)(=O)O | FHO3S
reactant | 3-bromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 0.059 mole | BrC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C1 | C15H11BrO
product | 3-bromo-7-fluorosulfonyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | BrC=1C=CC2=C(C(C3=C(CC2)C=CC(=C3)S(=O)(=O)F)=O)C1 | C15H10BrFO3S
